US04288436
2-Methoxyimino-2-(3-hydroxyphenyl)acetic acid (syn isomer) (1.33 g.) and 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (3 g.) were reacted according to similar manners to those of Examples 1(b), 2(b), 3(b) and 6(b) to give powder of 7-[2-methoxyimino-2-(3-hydroxyphenyl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.447 g.).

reactant | 2-Methoxyimino-2-(3-hydroxyphenyl)acetic acid | 1.33 g | CON=C(C(=O)O)C1=CC(=CC=C1)O | C9H9NO4
reactant | 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O | C11H12N6O5S2
product | 7-[2-methoxyimino-2-(3-hydroxyphenyl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.447 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)C1=CC(=CC=C1)O | C20H19N7O8S2
